US04778932
A 158 g (1.0 mole) quantity of benzenesulfonic acid, 94 g (1.2 moles) of benzene and 5 g of 12-tungstophosphoric acid (H3PW12O40.29H2O) were refluxed with heating and stirring. The reaction system was kept at the reflux temperature for 10 hours, while refluxing the benzene and removing the produced water by subjecting the azeotropic mixture with the benzene to phase separation. The reaction mixture was diluted with 150 g of benzene and the catalyst was separated by filtration. The mother liquor was washed with water and the benzene was distilled off under reduced pressure, giving 210 g of diphenylsulfone (96% yield, m.p. 124° to 128° C.).

reactant | benzenesulfonic acid | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 1.2 moles, 94 g | C1=CC=CC=C1 | C6H6
product | diphenylsulfone | 210 g, 96% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10O2S
